US07417142B2
2′-(10,20-Diphenyl-porphyrin-5-yloxy)-[1,1′]binaphthalenyl-2-ol
The general procedure was used to couple 5-bromo-10,20-diphenylporphin (54.2 mg, 0.1 mmol) with R-(+)-1,1′-Bi-2-naphthol (14.3 mg, 0.05 mmol), using Pd2(dba)3 (4.6 mg, 0.005 mmol) and DPEphos (10.8 mg, 0.02 mmol) in the presence of Cs2CO3 (37.6 mg, 0.1 mmol). The reaction was conducted in toluene at 100° C. for 24 h. The title compound was isolated by flash chromatography (silica gel, methylene chloride: hexanes (v/v)=8:2) as a purple-red solid (10 mg, 17%). 1H NMR (300 MHz, CDCl3) δ 10.12 (s, 1H), 9.27 (d, J=4.8 Hz, 4H), 8.97 (d, J=4.8 Hz, 4H), 8.78 (d, J=4.8 Hz, 4H), 8.17 (m, 4H), 7.99 (d, J=9.0 Hz, 1H), 7.94 (d, J=7.5 Hz, 1H), 7.86 (d, J=8.7 Hz, 1H), 7.74 (m, 6H), 7.40-7.66 (m, 8H), 6.42 (d, J=9.6 Hz, 1H), −2.83 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 141.2, 134.7, 131.6, 131.0, 130.8, 130.4, 129.5, 128.6, 128.3, 127.9, 127.8, 127.6, 126.9, 125.2, 124.9, 124.6, 123.7, 119.8, 117.8, 117.2, 104.7, 88.5. UV-vis (CH2Cl2, λmax, nm): 414, 511, 545, 586, 641. HRMS-EI ([M]+): calcd for C52H34N4O2, 746.2682, found 746.2680.

reactant | 5-bromo-10,20-diphenylporphin | 0.1 mmol, 54.2 mg | BrC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C32H21BrN4
reactant | R-(+)-1,1′-Bi-2-naphthol | 0.05 mmol, 14.3 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | DPEphos | 0.02 mmol, 10.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | Cs2CO3 | 0.1 mmol, 37.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2′-(10,20-Diphenyl-porphyrin-5-yloxy)-[1,1′]binaphthalenyl-2-ol | C1(=CC=CC=C1)C=1C=2C=CC(=C(C3=CC=C(N3)C(=C3C=CC(C=C4C=CC1N4)=N3)C3=CC=CC=C3)OC3=C(C4=CC=CC=C4C=C3)C=3C(=CC=C4C=CC=CC34)O)N2 | C52H34N4O2
